* source SCH_SIM
R_RL1         N179478 N204351  10k  
R_RL2         N179538 N179478  10k  
R_RL3         0 N179538  2k  
X_U6         N182520 VEE 1N4148 
V_V1         VCC 0 10
R_R12         0 N182362  1k TC=0,0 
X_U5         VCC N182362 1N4148 
R_R13         0 N182362  1k TC=0,0 
R_R15         N182520 0  1k TC=0,0 
V_V2         0 VEE 10
R_R14         N182520 0  1k TC=0,0 
X_Pamplit         N206838 N206838 N204351 POT PARAMS: SET=0.14 VALUE=500k
Q_Q3         N209348 N209266 N209208 QBC807-25 
R_R1         0 N209266  6.8k TC=0,0 
R_R6         N210113 VCC  100 TC=0,0 
R_R3         N209576 0  1k TC=0,0 
Q_Q8         VCC N209348 N206838 QBC817-25 
Q_Q1         N209266 N209266 N209196 QBC807-25 
Q_Q6         N209756 N209622 VEE QBC817-25 
Q_Q5         VEE N209566 N209282 QBC807-25 
Q_Q2         N209282 N209266 N210113 QBC807-25 
C_C1         0 N209566  100n  TC=0,0 
R_R4         N206838 N209576  1k TC=0,0 
R_R5         N209196 VCC  100 TC=0,0 
Q_Q4         N209622 N209576 N209282 QBC807-25 
R_R7         VEE N209622  1.5k TC=0,0 
Q_Q7         VEE N209756 N206838 QBC807-25 
R_R100         N209208 VCC  100 TC=0,0 
X_Pfrecv         N209566 N209566 N206838 POT PARAMS: SET=0.021 VALUE=10k
X_U9         N216440 N209348 1N4148 
X_U10         N209756 N216440 1N4148 
